US05624950
To a solution of 23.2 g of 6-acetoxy-4,4-dimethylcyclohex-2-enone and 0.8 cm3 of trifluoroacetic acid in 770 cm3 of dichloromethane are added, at room temperature, 43 cm3 of N-butoxymethyl-N-trimethylsilylmethylbenzylamine. The reaction mixture is stirred at room temperature for 15 hours then 5 g of potassium carbonate are added and the solution is filtered through a sinter funnel and concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed on a column of silica gel (particle size 0.04-0.06 mm, diameter 8 cm, height 53 cm), eluting under a pressure of 0.5 bar of nitrogen with a mixture of ethyl acetate and cyclohexane (20/80 by volume) and collecting 250 cm3 fractions. Fractions 18 to 27 are combined and concentrated to dryness under reduced pressure (2.7 kPa). 6.6 g of (3aRS,5RS,7aRS)-5 -acetoxy-2-benzyl-7,7-dimethyl-4-perhydroisoindolone are obtained in the form of a yellow oil.

reactant | 6-acetoxy-4,4-dimethylcyclohex-2-enone | 23.2 g | C(C)(=O)OC1CC(C=CC1=O)(C)C | C10H14O3
reactant | trifluoroacetic acid | 0.8 cm3 | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-butoxymethyl-N-trimethylsilylmethylbenzylamine | 43 cm3 | C(CCC)OCN(C[Si](C)(C)C)CC1=CC=CC=C1 | C16H29NOSi
reactant | potassium carbonate | 5 g | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 770 cm3 | ClCCl | CH2Cl2
product | (3aRS,5RS,7aRS)-5 -acetoxy-2-benzyl-7,7-dimethyl-4-perhydroisoindolone | 6.6 g | C(C)(=O)OC1C(C2CN(CC2C(C1)(C)C)CC1=CC=CC=C1)=O | C19H25NO3
